US08242174B2
(R)-2-(4-Fluoro-3,5-dimethyl-phenylamino)-hexanoic acid tert-butoxy-amide (Intermediate B2)
To a solution of crude (R)-2-(4-fluoro-3,5-dimethyl-phenylamino)-hexanoic acid (ca. 6.0 mmol), O-tert-butyl-hydroxyamine (2.261 g, 18.0 mmol), HOBT (0.811 g, 6.0 mmol), and N-methyl morphine (3.036 g, 30.0 mmol) in 20 mL of dichloromethane, was added EDCI (1.725 g, 9.0 mmol). After stirring at room temperature under N2 for 44 h, the reaction mixture was diluted with 60 mL of water and extracted with dichloromethane (60 mL×3). The organic extracts were combined and dried over anhydrous Na2SO4 and the solvents removed under reduced pressure. The product was isolated by Flash chromatography (silica gel) eluting with 0-30% ethyl acetate/hexanes to give the title compound as a pale yellow semi-solid (0.747 g, 38% yield). LC-MS: tR=8.8 min; m/z 325 (M+H)+.

reactant | (R)-2-(4-fluoro-3,5-dimethyl-phenylamino)-hexanoic acid | ca. 6.0 mmol | FC1=C(C=C(C=C1C)N[C@@H](C(=O)O)CCCC)C | C14H20FNO2
reactant | O-tert-butyl-hydroxyamine | 18.0 mmol, 2.261 g | C(C)(C)(C)ON | C4H11NO
reactant | HOBT | 6.0 mmol, 0.811 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methyl morphine | 30.0 mmol, 3.036 g | C[N+]1(CC[C@]23[C@@H]4[C@@H]1CC5=C2C(=C(C=C5)O)O[C@H]3[C@H](C=C4)O)C
reactant | EDCI | 9.0 mmol, 1.725 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | 60 mL | O | H2O
product | (R)-2-(4-Fluoro-3,5-dimethyl-phenylamino)-hexanoic acid tert-butoxy-amide | 0.747 g, 38% yield | C(C)(C)(C)ONC([C@@H](CCCC)NC1=CC(=C(C(=C1)C)F)C)=O | C18H29FN2O2
